US06599905B2
2. 2-isopropylcarbonylamino-6-amino-3-(2,3,5-trichlorophenyl)pyrazine
Stannous chloride (0.182 g, 0.0096 mole) was added to the suspension of 2-isopropylcarbonylamino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine (0.13 g, 3.24×10−4 mole), in absolute ethanol (6.50 ml) and the resulting mixture stirred at 50-60° C. for 1 hr 20 min. The reaction mixture was cooled and evaporated in vacuo. The residue was extracted with ethylacetate (3×20 ml), washed with water (2×20 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was purified by ‘flash chromatography’ using chloroform:methanol, 99:1 as the eluent. Yield 0.046 g (40%), M.p. 105-108° C.

reactant | 2-isopropylcarbonylamino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine | 3.24×10−4 mole, 0.13 g | C(C)(C)C(=O)NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)NC(C)=O | C16H15Cl3N4O2
solvent | ethanol | 6.50 ml | C(C)O | C2H6O
product | 2-isopropylcarbonylamino-6-amino-3-(2,3,5-trichlorophenyl)pyrazine | C(C)(C)C(=O)NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)N | C14H13Cl3N4O
